US07615550B2
Methyl 3-bromo-4-ethyl-benzoate (D44)
3-Bromo-4-ethyl-benzoic acid (D43) (19.40 g) was dissolved in MeOH (200 mL) and then treated with conc. H2SO4 (1 mL). The mixture was heated at reflux overnight, and then concentrated under reduced pressure. The residue was partitioned between EtOAc and saturated aqueous NaHCO3 solution, extracting again with EtOAc. The combined extracts were then washed with brine, dried (MgSO4). The solvent was evaporated in vacuo to afford the title compound (15.8 g). 1H NMR (CDCl3) δ 1.24 (3H, t), 2.79 (2H, q), 3.91 (3H, s), 7.29 (1H, d), 7.89 (1H, dd), 8.19 (1H, d).

reactant | 3-Bromo-4-ethyl-benzoic acid | 19.40 g | BrC=1C=C(C(=O)O)C=CC1CC | C9H9BrO2
reactant | H2SO4 | 1 mL | OS(=O)(=O)O | H2O4S
reactant | MeOH | 200 mL | CO | CH4O
product | Methyl 3-bromo-4-ethyl-benzoate | 15.8 g | BrC=1C=C(C(=O)OC)C=CC1CC | C10H11BrO2
